US06274587B1
9-(4-bromo-3-fluorophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
A solution of 1,3-cyclohexanedione(0.56 g, 5 mmol), 3-bromo-4-fluorobenzaldehyde(1.01 g, 5 mmol), and 3-aminopyrazole (0.41 g, 5 mmol) in ethanol (5 mL) was heated at reflux for 24 hours. After the reaction mixture was allowed to cool to ambient temperature, the volatiles were evaporated at reduced pressure and the resulting residue was chromatographed on silica gel, eluting with 5% ethanol/methylene chloride to provide 0.9 g (49 %) of the title compound.

reactant | 1,3-cyclohexanedione | 5 mmol, 0.56 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-bromo-4-fluorobenzaldehyde | 5 mmol, 1.01 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 3-aminopyrazole | 5 mmol, 0.41 g | NC1=NNC=C1 | C3H5N3
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 9-(4-bromo-3-fluorophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | 0.9 g, 49 % | BrC1=C(C=C(C=C1)C1N2C(NC=3CCCC(C13)=O)=CC=N2)F | C16H13BrFN3O
